US06043358
A mixture of 3,3'-thiodipropionic acid (17.82 g, 10 mmol), allyl alcohol (20.4 mL, 30 mmol) and p-toluenesulfonic acid (0.750 g) in 100 mL of toluene was refluxed for 8 h in a Dean-Stark apparatus to azeotropically remove water. The reaction mixture was quenched with saturated solution of sodium bicarbonate and the toluene layer was separated and washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo and gave approximately 20 g of crude 3,3'-thiodipropionic acid, diallyl ester. This material was sufficiently pure by NMR and was used in the subsequent reaction.

reactant | 3,3'-thiodipropionic acid | 10 mmol, 17.82 g | S(CCC(=O)O)CCC(=O)O | C6H10O4S
reactant | allyl alcohol | 30 mmol, 20.4 mL | C(C=C)O | C3H6O
reactant | water | O | H2O
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.750 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3,3'-thiodipropionic acid, diallyl ester | approximately 20 g | S(CCC(=O)OCC=C)CCC(=O)OCC=C | C12H18O4S
